* gnetlist -g spice-sdb ce_amplifier.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from bc547c.mod vvvvvvvv
.model bc547c NPN BF=730 NE=1.4 ISE=29.5F IKF=80M IS=60F VAF=25 ikr=12m
       + BR=10 NC=2 VAR=10 RB=280 RE=1 RC=40 VJE=.48 tr=.3u tf=.5n
       + cje=12p vje=.48 mje=.5 cjc=6p vjc=.7 mjc=.33 isc=47.6p kf=2f

*^^^^^^^^  End of included SPICE model from bc547c.mod ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
Cm 1 6 10u  
Ce 2 0 10u  
Ce2 7 8 10u  
Q2 5 6 7 bc547c 
Rgb 0 8 2.2meg  
Reb 0 7 2.2meg  
Rcb 5 4 2.2meg  
R2b 0 6 2.2meg  
R1b 6 4 2.2meg  
Vin in 0 sin(0 .1 2k)
V1 4 0 9
Cout 5 out 10u  
Cin in 3 10u  
Rc 1 4 22k  
Rload 0 out 22k  
Re 0 2 1k  
R2 0 3 1meg  
R1 3 4 2.2meg  
Q1 1 3 2 bc547c 

.control
tran 100n 6m
plot v(in) v(out)
.endc

.end
